US04600709
In a manner analogous to that described in Example 5a), p-toluenesulphinic acid is oxidatively condensed with 4-chloro-1,2-benzenediol. On recrystallisation from 1,2-dichloroethane, 4-chloro-(4-methylphenylsulphonyl)-1,2-benzenediol is obtained in the form of colourless crystals having a melting point of 162°-164°.

reactant | p-toluenesulphinic acid | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
reactant | 4-chloro-1,2-benzenediol | ClC=1C=C(C(=CC1)O)O | C6H5ClO2
product | 4-chloro-(4-methylphenylsulphonyl)-1,2-benzenediol | ClC=1C(=C(C(=CC1)O)O)S(=O)(=O)C1=CC=C(C=C1)C | C13H11ClO4S
